US07423150B2
The mixture containing 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxylic acid (1 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (2 eq), 3H-1,2,3-triazolo[4,5-b]pyridine-3-ol (1.5 eq), and diisopropylamine (5 eq) in tetrahydrofuran was stirred at room temperature for 1 hour. To this was then added ammonium chloride (2 eq) and the resulting mixture was stirred together for 48 hours. Reaction concentrated. Purification on silica gel, 50% acetone in hexanes to yield 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxamide as a bright yellow solid. HPLC=3.70 min; MS: MH+=319.

reactant | 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxylic acid | 1 eq | COC1=C(OC2=CC(=NC=C2)C(=O)O)C=C(C(=C1)NC)[N+](=O)[O-] | C14H13N3O6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 2 eq | CN(CCCN=C=NCC)C | C8H17N3
reactant | 3H-1,2,3-triazolo[4,5-b]pyridine-3-ol | 1.5 eq | N1=NN(C2=NC=CC=C21)O | C5H4N4O
reactant | diisopropylamine | 5 eq | C(C)(C)NC(C)C | C6H15N
reactant | ammonium chloride | 2 eq | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxamide | COC1=C(OC2=CC(=NC=C2)C(=O)N)C=C(C(=C1)NC)[N+](=O)[O-] | C14H14N4O5
